US07186716B2
5-(1H-Pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-2-carboxylic acid
A mixture of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid ethyl ester (0.5 g) and hydrazine hydrate (0.7 g) in ethanol was heated at 80° C. for 24 hours. The resulted precipitate was collected by vacuum filtration, washed with water and dried to give 80 mg of the titled compound.

reactant | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1NC(=CC1)C(=O)C=1C(=NC=CC1)Cl | C13H11ClN2O3
reactant | hydrazine hydrate | 0.7 g | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 5-(1H-Pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-2-carboxylic acid | 80 mg | N1N=C(C=2C1=NC=CC2)C2=CC=C(N2)C(=O)O | C11H8N4O2
